US08008305B2
A suspension of 6-(4-methyl-piperazin-1-yl)-nicotinic acid (200 mg) in DMF (2 ml) was treated under an argon atmosphere with diisopropylamine (0.50 ml), benzylamine (0.12 ml) and BOP (600 mg). The reaction mixture was stirred at r.t. overnight, then diluted with water and extracted with EtOAc. The combined organic layers were washed with water and brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2→CH2Cl2/MeOH 9:1) to give N-benzyl-6-(4-methyl-piperazin-1-yl)-nicotinamide (120 mg) as off-white solid. MS (ISP): 311.3 ([M+H]+)

reactant | 6-(4-methyl-piperazin-1-yl)-nicotinic acid | 200 mg | CN1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C11H15N3O2
reactant | diisopropylamine | 0.50 ml | C(C)(C)NC(C)C | C6H15N
reactant | benzylamine | 0.12 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | BOP | 600 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-benzyl-6-(4-methyl-piperazin-1-yl)-nicotinamide | 120 mg | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1)N1CCN(CC1)C)=O | C18H22N4O
